US08492582B2
Water (0.60 mL), thiophene-2-boronic acid (0.024 g), sodium carbonate (0.041 g), and bis(triphenylphosphine)palladium(II) dichloride (2.2 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) solution of tert-butyl 2-(2-acetoxy-5-(piperidin-1-yl)benzamido)-4-bromobenzoate (0.080 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 95-85% hexane/ethyl acetate] to obtain 0.027 g of tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(thiophen-2-yl)benzoate as a yellow solid.

reactant | thiophene-2-boronic acid | 0.024 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.041 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(2-acetoxy-5-(piperidin-1-yl)benzamido)-4-bromobenzoate | 0.080 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)Br)C=C(C=C1)N1CCCCC1 | C25H29BrN2O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 2.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.60 mL | O | H2O
product | tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(thiophen-2-yl)benzoate | 0.027 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C=2SC=CC2)C=C(C=C1)N1CCCCC1 | C27H30N2O4S
